US03960841
A solution of 450 mg. of 3,18-bis(tetrahydropyranyloxy)-1,3,5(10)-estratrien-17-one in 10 ml. of absolute THF is combined at 0° C. with 500 mg. of lithium tri-tert.-butoxyaluminum hydride and agitated for one-half hour at room temperature. Then, the mixture is poured into ice water, taken up in ether, washed neutral with water, dried, and evaporated. The residue of crude 3,18-bis(tetrahydropyranyloxy)-1,3,5(10)-estratrien-17β-ol is dissolved in 5 ml. of DMF, and under N2 100 mg. of sodium hydride (50% suspension in oil) is added thereto. After 1 hour of agitation at room temperature, 0.19 ml. of dimethyl sulfate is added. The mixture is stirred for another hour and then introduced into water. After extraction with ether, the organic phase is washed with water and dried. The residue of 3,18-bis(tetrahydropyranyloxy)-17β-methoxy-1,3,5(10)-estratriene remaining after evaporation is heated to the boiling point in 4 ml. of methanol with 4 ml. of water and 0.4 g. of oxalic acid. After 1 hour, the mixture is taken up in ether, washed neutral with water, dried, and evaporated, and after purification by chromatography over silica gel, 3,18-dihydroxy-17β-methoxy-1,3,5(10)-estratriene is produced.

reactant | 3,18-bis(tetrahydropyranyloxy)-1,3,5(10)-estratrien-17-one | O1C(CCCC1)OC1=CC=2CC[C@H]3[C@@H]4CCC([C@@]4(COC4OCCCC4)CC[C@@H]3C2C=C1)=O | C28H38O5
reactant | THF | C1CCOC1 | C4H8O
reactant | lithium tri-tert.-butoxyaluminum hydride | [H-].C(C)(C)(C)O[Al](OC(C)(C)C)OC(C)(C)C.[Li+]
solvent | ether | CCOCC | C4H10O
product | 3,18-dihydroxy-17β-methoxy-1,3,5(10)-estratriene | OC1=CC=2CC[C@H]3[C@@H]4CC[C@@H]([C@@]4(CO)CC[C@@H]3C2C=C1)OC | C19H26O3
